US07754737B2
To a 50 mL round bottom flask were added 0.0597 g (0.097 mmol, 1.0 equiv) of 2-(trimethylsilyl)ethyl (S)-2-((R)-3-((S)-1-hydroxy-5-methoxy-1-phenylpentyl)piperidine-1-carboxamido)-3-cyclohexylpropylmethylcarbamate and 5 mL of CH2Cl2. The flask was evacuated and refilled with N2. The mixture was cooled with a dry ice-acetone bath and 0.1860 g (ca. 10 equiv) of (diethylamino)sulfur trifluoride (DAST) was added. After 5 min, the dry ice-acetone bath was replaced by an ice-MeOH bath (−10° C.). After an additional hour, the reaction mixture was quenched with 10% Na2CO3 (10 mL), extracted three times with Et2O, and dried over Na2SO4. The crude product was purified by reversed-phase HPLC (Phenomenex® Luna 5μ C18(2) 100 A, 250×21.20 mm, 5 micron, 70%→90% CH3CN/H2O, 0.1% CF3COOH over 8 min and then 90% CH3CN/H2O, 0.1% CF3COOH over 15 min, flow rate 25 mL/min) to give 0.0478 g (80%) of 2-(trimethylsilyl)ethyl (S)-2-((R)-3-(1-fluoro-5-methoxy-1-phenylpentyl)-piperidine-1-carboxamido)-3-cyclohexylpropylmethylcarbamate. LC-MS tR=2.59 min in 3 min chromatography, m/z 642 (M+Na+), 620 (M+H+). 1H NMR (400 MHz, CDCl3) δ 8.83 (br s, 1H), 7.36-7.19 (m, 5H), 5.42 (br s, 0.69H), 5.00 (br s, 0.31H), 4.39-4.36 (m, 1H), 4.14-4.03 (m, 3H), 3.72-3.46 (m, 2H), 3.28-3.24 (m, 5H), 2.94-2.86 (m, 4H), 2.62-2.40 (m, 2H), 2.11-0.81 (m, 25H), 0.03 and −0.01 (s, 9H); 13C NMR (100 MHz, CDCl3) δ 158.4, 157.8, 141.3, 141.0, 128.2, 128.1, 127.3, 126.9, 124.7, 124.6, 101.3, 99.5, 72.52, 72.46, 63.9, 63.8, 58.4, 58.3, 52.7, 52.6, 47.9, 47.6, 45.0, 44.82, 44.77, 44.6, 41.3, 41.1, 37.1, 36.9, 34.7, 34.6, 34.4, 34.3, 33.5, 33.4, 33.2, 29.6, 29.5, 26.4, 26.2, 26.13, 26.09, 25.1, 25.0, 24.6, 19.8, 17.7, −1.6.

reactant | 2-(trimethylsilyl)ethyl (S)-2-((R)-3-((S)-1-hydroxy-5-methoxy-1-phenylpentyl)piperidine-1-carboxamido)-3-cyclohexylpropylmethylcarbamate | 0.097 mmol, 0.0597 g, 1.0 equiv | O[C@](CCCCOC)(C1=CC=CC=C1)[C@H]1CN(CCC1)C(=O)N[C@H](CN(C(OCC[Si](C)(C)C)=O)C)CC1CCCCC1 | C34H59N3O5Si
reactant | (diethylamino)sulfur trifluoride | 0.1860 g, ca. 10 equiv | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | dry ice acetone | C(=O)=O.CC(=O)C
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-(trimethylsilyl)ethyl (S)-2-((R)-3-(1-fluoro-5-methoxy-1-phenylpentyl)-piperidine-1-carboxamido)-3-cyclohexylpropylmethylcarbamate | 0.0478 g, 80% | FC(CCCCOC)(C1=CC=CC=C1)[C@H]1CN(CCC1)C(=O)N[C@H](CN(C(OCC[Si](C)(C)C)=O)C)CC1CCCCC1 | C34H58FN3O4Si
